US09416239B2
A 250-ml three-neck flask equipped with a stirrer, thermometer, and condenser was charged with acrylic acid (7.2 g), 4-methoxyphenol (0.046 g), N-methyl pyrrolidone (6.0 g), magnesium chloride (0.047 g). The mixture was stirred at room temperature to form a solution and was then heated to 70° C. in an oil bath. To this solution was gradually added within a 1-h period, 11.1 g of isophorone diisocyanate (IPDI). The reaction mixture was kept at 70° C. for 3 h until the evolution of CO2 bubbles had substantially ceased. The solution was cooled down to room temperature to obtain isophorone diacrylamide in N-methyl pyrrolidone solution.

reactant | acrylic acid | 7.2 g | C(C=C)(=O)O | C3H4O2
reactant | 4-methoxyphenol | 0.046 g | COC1=CC=C(C=C1)O | C7H8O2
reactant | magnesium chloride | 0.047 g | [Cl-].[Mg+2].[Cl-]
reactant | isophorone diisocyanate | 11.1 g | O=C=NC1CC(CN=C=O)(CC(C1)(C)C)C | C12H18N2O2
reactant | CO2 | C(=O)=O | CO2
solvent | N-methyl pyrrolidone | CN1C(CCC1)=O | C5H9NO
solvent | N-methyl pyrrolidone | 6.0 g | CN1C(CCC1)=O | C5H9NO
product | isophorone diacrylamide | C(C=C)(=O)N.C(C=C)(=O)N.O=C1C=C(CC(C)(C)C1)C | InChI=1S/C9H14O.2C3H5NO/c1-7-4-8(10)6-9(2,3)5-7;2*1-2-3(4)5/h4H,5-6H2,1-3H3;2*2H,1H2,(H2,4,5)
